US07863293B2
Using General Procedure A: A solution of {4-[(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester (0.605 g, 2.06 mmol), 1-(tert-butoxycarbonyl)-2-(chloromethyl)-benzimidazole (0.804 g, 3.01 mmol), KI (72 mg, 0.43 mmol) and DIPEA (0.70 mL, 4.02 mmol) in CH3CN (10 mL) was heated at 80° C. for 6 hours. Purification of the crude material by column chromatography on silica gel (15:1 CH2Cl2-MeOH) followed by column chromatography on silica gel (NH4OH saturated Et2O) provided 0.82 g (76%) of 2-{[(4-tert-Butoxycarbonylamino-butyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester as a white foam.

reactant | {4-[(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | 2.06 mmol, 0.605 g | C(C)(C)(C)OC(NCCCCNCC1=NC=CC=C1C)=O | C16H27N3O2
reactant | 1-(tert-butoxycarbonyl)-2-(chloromethyl)-benzimidazole | 3.01 mmol, 0.804 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CCl | C13H15ClN2O2
reactant | DIPEA | 4.02 mmol, 0.70 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 2-{[(4-tert-Butoxycarbonylamino-butyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-benzoimidazole-1-carboxylic acid tert-butyl ester | 0.82 g, 76% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)CN(CC2=NC=CC=C2C)CCCCNC(=O)OC(C)(C)C | C29H41N5O4
